US06900336B2
To a −78° C. THF solution(10 mL) of dimethylmethylphosphonate (0.423 mL, 3.9 mmol) was added 1.6M BuLi in hexanes (2.44 mL, 3.9 mmol). After 1 h a THF solution (5 mL) of 3-benzyl-benzoic acid methyl ester (589 mg, 2.6 mmol) was added. After 15 min. the reaction mixture was warmed to room temperature and stirred an additional 3 h. The reaction mixture was quenched with an aqueous NaHCO3 solution and extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered and concentrated. The residue was subjected to column chromatography (18 ethyl acetate: 1 hexanes) to provide [2-(3-benzyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester (677 mg, 2.12 mmol) as an oil.

reactant | dimethylmethylphosphonate | 3.9 mmol, 0.423 mL | COP(OC)(=O)C | C3H9O3P
reactant | BuLi | 1.6M | [Li]CCCC
reactant | 3-benzyl-benzoic acid methyl ester | 2.6 mmol, 589 mg | COC(C1=CC(=CC=C1)CC1=CC=CC=C1)=O | C15H14O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [2-(3-benzyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | 2.12 mmol, 677 mg | COP(OC)(=O)CC(=O)C1=CC(=CC=C1)CC1=CC=CC=C1 | C17H19O4P
